### PR TITLE
[Merged by Bors] - feat: uniqueness of measures in the Riesz–Markov–Kakutani representation theorem

### PR DESCRIPTION
**Pull request by CoolRmal**
This PR adds the proof of the uniqueness of measures in the Riesz–Markov–Kakutani representation theorem (i.e. if two regular measures on a locally compact Hausdorff space induce the same linear functionals on the set of compactly supported continuous functions, then these two measures are equal).

cf. https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Uniqueness.20in.20Riesz.E2.80.93Markov.E2.80.93Kakutani.20representation.20theorem

---

- [x] depends on: #28059 
- [x] depends on: #30187 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/UrysohnsLemma.lean [hunk 1]
```diff
@@ -522,6 +523,34 @@ lemma exists_tsupport_one_of_isOpen_isClosed [T2Space X] {s t : Set X}
...
+    · apply isClosed_closure
+    · trans U
+      · exact hf1
+      · apply subset_closure
+  · trans U
+    · exact hf1
+    · trans closure U
+      · apply subset_closure
+      · exact hU3
+  · simp only [Set.mem_Icc] at hf3; intro x; exact hf3 x
```
Comment (j-loreaux) [inline Mathlib/Topology/UrysohnsLemma.lean]: Personally, I prefer `obtain` over `rcases` since it's an actual word. Note that the conditions you extract are almost exactly the ones you need. Only some very minimal massaging is required.
```suggestion
  obtain ⟨U, hU1, hU2, hU3, hU4⟩ := exists_open_between_and_isCompact_closure hK hV hKV
  obtain ⟨f, hf1, hf2, hf3⟩ := exists_tsupport_one_of_isOpen_isClosed hU1 hU4 hK.isClosed hU2
  have : tsupport f ⊆ closure U := hf1.trans subset_closure
  exact ⟨f, hf2, hU4.of_isClosed_subset isClosed_closure this, this.trans hU3, hf3⟩
```

File: Mathlib/MeasureTheory/Measure/Regular.lean [hunk 2]
```diff
@@ -216,6 +216,18 @@ theorem measure_eq_iSup (H : InnerRegularWRT μ p q) (hU : q U) :
...
+    (hμν : ∀ U, p U → μ U = ν U) : ∀ U, q U → μ U = ν U := by
+  intro U hU
+  rw [Measure.InnerRegularWRT.measure_eq_iSup hμ hU, Measure.InnerRegularWRT.measure_eq_iSup hν hU]
+  apply iSup_congr
+  intro t
+  apply iSup_congr
+  intro ht1
+  apply iSup_congr
+  intro ht2
+  exact hμν t ht2
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Measure/Regular.lean]: untested
```suggestion
theorem eq_on_q_of_eq_on_p {ν : Measure α} (hμ : μ.InnerRegularWRT p q) (hν : ν.InnerRegularWRT p q)
    (hμν : ∀ U, p U → μ U = ν U) (U : Set α) (hU : q U) : μ U = ν U := by
  rw [hμ.measure_eq_iSup hU, hν.measure_eq_iSup hU]
  congr! with t _ ht2
  exact hμν t ht2
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 3]
```diff
@@ -324,16 +328,141 @@ private lemma integral_riesz_aux (f : C_c(X, ℝ)) : Λ f ≤ ∫ x, f x ∂(rie
...
+          · simp [hA, (pf3 x).2]
+          · simp only [hB, not_false_eq_true, Set.indicator_of_notMem]
+            exact le_of_eq (image_eq_zero_of_notMem_tsupport (Set.notMem_subset pf2 hB))
+      _ = ν.real V := integral_indicator_one (IsOpen.measurableSet pV2)
+      _ = (ν V).toReal := by rw [measureReal_def]
+      _ ≤ (ν K).toReal + ↑ε := by
+        rw [ENNReal.toReal, ENNReal.toReal, ← NNReal.coe_add,
+          NNReal.coe_le_coe, ← ENNReal.coe_le_coe, ENNReal.coe_add,
+          ENNReal.coe_toNNReal lem2, ENNReal.coe_toNNReal (ne_of_lt VltTop)]
+        exact pV3
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: I would like to add this note, as I spent a few minutes trying to remove that hypothesis before realizing it was impossible to do so.

The rest of the changes are primarily just golfs / cleanup of the existing code. I do wonder whether the application of Urysohn's lemma should have a version that returns a compactly supported function.

Do you know about dot notation? That is, if you have a term `hx : Foo` and you have a lemma named `Foo.bar (h : Foo) : ...` that has `Foo` as an argument, then `hx.bar` means `Foo.bar hx`. This can greatly simplify code when combining many pieces together.

Oh, and I made the hypothesis an inequality, because that's all that is needed. This necessitates fixing the proof of the next lemma.

You may as well also add this lemma, as the pattern shows up repeatedly.
```lean
lemma CompactlySupportedContinuousMap.integrable {X E : Type*} [MeasurableSpace X]
    [TopologicalSpace X] [NormedAddCommGroup E] (f : C_c(X, E))
    {μ : Measure X} [OpensMeasurableSpace X] [IsFiniteMeasureOnCompacts μ] :
    Integrable f μ :=
  f.1.2.integrable_of_hasCompactSupport f.2
```



```suggestion
-- Note: the assumption `IsFiniteMeasureOnCompacts μ` cannot be removed. For example, if
-- `μ` is infinite on any nonempty set and `ν = 0`, then the hypothese are satisfied.
lemma compare_measure_of_compact_sets {μ ν : Measure X} [ν.OuterRegular]
    [IsFiniteMeasureOnCompacts ν] [IsFiniteMeasureOnCompacts μ]
    (hμν : ∀ (f : C_c(X, ℝ)), ∫ (x : X), f x ∂μ ≤ ∫ (x : X), f x ∂ν)
    ⦃K : Set X⦄ (hK : IsCompact K) : μ K ≤ ν K := by
  refine ENNReal.le_of_forall_pos_le_add fun ε hε hν ↦ ?_
  have hνK : ν K ≠ ⊤ := hν.ne
  have hμK : μ K ≠ ⊤ := hK.measure_lt_top.ne
  obtain ⟨V, pV1, pV2, pV3⟩ : ∃ V ⊇ K, IsOpen V ∧ ν V ≤ ν K + ε := by
    exact Set.exists_isOpen_le_add K ν (ne_of_gt (ENNReal.coe_lt_coe.mpr hε))
  suffices  (μ K).toReal ≤ (ν K).toReal + ε by
    rw [← ENNReal.toReal_le_toReal, ENNReal.toReal_add, ENNReal.coe_toReal]
    all_goals finiteness
  have VltTop : ν V < ⊤ := pV3.trans_lt <| by finiteness
  obtain ⟨f, pf1, pf2, pf3⟩ :
      ∃ f : C_c(X, ℝ), Set.EqOn (⇑f) 1 K ∧ tsupport ⇑f ⊆ V ∧ ∀ (x : X), f x ∈ Set.Icc 0 1 := by
    obtain ⟨f, hf1, hf2, hf3⟩ := exists_continuous_one_of_compact_subset_open hK pV2 pV1
    exact ⟨⟨f, hasCompactSupport_def.mpr hf2⟩, hf1, hf3⟩
  have hfV (x : X) : f x ≤ V.indicator 1 x := by
    by_cases hx : x ∈ tsupport f
    · simp [(pf2 hx), (pf3 x).2]
    · simp [image_eq_zero_of_notMem_tsupport hx, Set.indicator_nonneg]
  have hfK (x : X) : K.indicator 1 x ≤ f x := by
    by_cases hx : x ∈ K
    · simp [hx, pf1 hx]
    · simp [hx, (pf3 x).1]
  calc
    (μ K).toReal = ∫ (x : X), K.indicator 1 x ∂μ := by
      rw [integral_indicator_one hK.measurableSet, measureReal_def]
    _ ≤ ∫ (x : X), (f x : ℝ) ∂μ := by
      refine integral_mono ?_ f.integrable hfK
      exact (continuousOn_const.integrableOn_compact hK).integrable_indicator hK.measurableSet
    _ ≤ ∫ (x : X), (f x : ℝ) ∂ν := hμν f
    _ ≤ ∫ (x : X), V.indicator 1 x ∂ν := by
      refine integral_mono f.integrable ?_ hfV
      exact IntegrableOn.integrable_indicator integrableOn_const pV2.measurableSet
    _ ≤ (ν K).toReal + ↑ε := by
      rwa [integral_indicator_one pV2.measurableSet, measureReal_def,
        ← ENNReal.coe_toReal, ← ENNReal.toReal_add, ENNReal.toReal_le_toReal]
      all_goals finiteness
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 4]
```diff
@@ -324,16 +328,141 @@ private lemma integral_riesz_aux (f : C_c(X, ℝ)) : Λ f ≤ ∫ x, f x ∂(rie
...
+      refine integral_add' ?_ ?_
+      · exact Continuous.integrable_of_hasCompactSupport f.1.2 f.2
+      · exact Continuous.integrable_of_hasCompactSupport g.1.2 g.2
+    · intro c f
+      simp only [RingHom.id_apply]
+      apply integral_const_mul_of_integrable
+      exact Continuous.integrable_of_hasCompactSupport f.1.2 f.2
+  · intro f hf
+    simp only [LinearMap.coe_mk, AddHom.coe_mk]
+    exact integral_nonneg hf
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: 1. Don't construct data in tactic mode. `refine` is likely safe, but if you're using `refine` you can generally just construct the term.
2. In this case, it's rather straightforward, especially with the convenience lemma `CompactlySupportedContinuousMap.integrable`.
3. You want `simps!` to generate the `simp` lemmas for you, so that you can access the function underlying this `PositiveLinearMap` easily.
```suggestion
@[simps!]
noncomputable def integralPositiveLinearMap (μ : Measure X) [OpensMeasurableSpace X]
    [MeasureTheory.IsFiniteMeasureOnCompacts μ] : C_c(X, ℝ) →ₚ[ℝ] ℝ :=
PositiveLinearMap.mk₀
  { toFun f := ∫ (x : X), f x ∂μ,
    map_add' f g := integral_add' f.integrable g.integrable
    map_smul' c f := integral_smul c f }
  fun _ ↦ integral_nonneg
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 5]
```diff
@@ -324,16 +328,141 @@ private lemma integral_riesz_aux (f : C_c(X, ℝ)) : Λ f ≤ ∫ x, f x ∂(rie
...
+/-- If two regular measures induce the same positive linear functional on `C_c(X, ℝ)`,
+then they are equal. -/
+theorem eq_of_eq_integralPositiveLinearMap {μ ν : Measure X}
+    [Measure.Regular μ] [Measure.Regular ν]
+    (hμν : integralPositiveLinearMap μ = integralPositiveLinearMap ν) : μ = ν := by
+  apply eq_of_integral_eq_on_Cc
+  intro f
+  simp only [integralPositiveLinearMap, PositiveLinearMap.mk₀, PositiveLinearMap.mk.injEq,
+    LinearMap.mk.injEq, AddHom.mk.injEq] at hμν
+  exact congr_fun hμν f
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: Seeing through the definitional equality it relatively straightforward here. No need for `simp`. Note that `congr()` can be used to build equalities in sophisticated ways. It's quite handy. Note that this works even though `congr_fun` doesn't here (because `congr_fun` would need to use a coercion to function too).
```suggestion
    (hμν : integralPositiveLinearMap μ = integralPositiveLinearMap ν) : μ = ν :=
  eq_of_integral_eq_on_Cc fun f ↦ congr($hμν f)
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 6]
```diff
@@ -324,16 +328,141 @@ private lemma integral_riesz_aux (f : C_c(X, ℝ)) : Λ f ≤ ∫ x, f x ∂(rie
...
+
+/-The Riesz measure induced by a positive linear functional on `C_c(X, ℝ)` is regular.-/
+instance rieszMeasure_regular (Λ : C_c(X, ℝ) →ₚ[ℝ] ℝ) : (rieszMeasure Λ).Regular :=
+  Content.regular (rieszContent (CompactlySupportedContinuousMap.toNNRealLinear Λ))
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: minor, but this is an example of dot notation.
```suggestion
  rieszContent (CompactlySupportedContinuousMap.toNNRealLinear Λ) |>.regular
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 7]
```diff
@@ -324,16 +328,141 @@ private lemma integral_riesz_aux (f : C_c(X, ℝ)) : Λ f ≤ ∫ x, f x ∂(rie
...
+/-- RealRMK.rieszMeasure is a surjective function. That is, every regular measure is induced by a
+positive linear functional on `C_c(X, ℝ)`. -/
+theorem rieszMeasure_surjective {μ : Measure X} [Measure.Regular μ] :
+    μ = rieszMeasure (integralPositiveLinearMap μ) := by
+  apply eq_of_integral_eq_on_Cc
+  intro f
+  trans (integralPositiveLinearMap μ) f
+  · simp [integralPositiveLinearMap]
+    rfl
+  · exact (integral_rieszMeasure (integralPositiveLinearMap μ) f).symm
```
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: No need for the `trans`
```suggestion
    μ = rieszMeasure (integralPositiveLinearMap μ) :=
  eq_of_integral_eq_on_Cc fun f ↦ (integral_rieszMeasure (integralPositiveLinearMap μ) f).symm
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean
Comment (j-loreaux) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean:1]: I encourage you to make changes to this file akin to the suggestions I made in the other one. If you have trouble, I can review again.

**Review by j-loreaux — COMMENTED** [review]
You'll need to merge master since the other PR was merged.

Also, I don't think abbreviating to `CompactlySupportedContinuousMap` to `Cc` in the naming is a good strategy. `compactlySupported` might be an okay abbreviation.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean (hunk 3 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: Thank you for your comments! Where should I put the new lemma `CompactlySupportedContinuousMap.integrable`? `#fine_home!` suggests Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.Real, which is not helpful.

File: Mathlib/MeasureTheory/Measure/Regular.lean [hunk 8]
```diff
@@ -216,6 +216,12 @@ theorem measure_eq_iSup (H : InnerRegularWRT μ p q) (hU : q U) :
     le_antisymm (le_of_forall_lt fun r hr => ?_) (iSup₂_le fun K hK => iSup_le fun _ => μ.mono hK)
   simpa only [lt_iSup_iff, exists_prop] using H hU r hr
 
+theorem eq_on_q_of_eq_on_p {ν : Measure α} (hμ : μ.InnerRegularWRT p q) (hν : ν.InnerRegularWRT p q)
+    (hμν : ∀ U, p U → μ U = ν U) (U : Set α) (hU : q U) : μ U = ν U := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Measure/Regular.lean]: I think this is not a good name because it refers to the variables. I would suggest `eq_on_outer_of_eq_on_inner`. Also `U` should be implicit.
```suggestion
theorem eq_on_q_of_eq_on_p {ν : Measure α} (hμ : μ.InnerRegularWRT p q) (hν : ν.InnerRegularWRT p q)
    (hμν : ∀ U, p U → μ U = ν U) {U : Set α} (hU : q U) : μ U = ν U := by
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 9]
```diff
@@ -338,4 +349,98 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
   -- prove the inequality for `f`
   · exact integral_riesz_aux Λ f
 
+/-- The Riesz measure induced by a positive linear functional on `C_c(X, ℝ)` is regular. -/
+instance rieszMeasure_regular : (rieszMeasure Λ).Regular :=
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: Not important because it is an instance but I think the name should rather be `regular_rieszMeasure` because that's the order of the words in the statement if we forget dot notation:
```suggestion
instance regular_rieszMeasure : (rieszMeasure Λ).Regular :=
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 10]
```diff
@@ -338,4 +349,98 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+  (rieszContent _).regular
+
+section integralPositiveLinearMap
+
+/-! We show that `RealRMK.rieszMeasure` is a bijection between positive linear functionals on
+`C_c(X, ℝ)` and regular measures with inverse `RealRMK.integralPositiveLinearMap`. -/
+
+-- Note: the assumption `IsFiniteMeasureOnCompacts μ` cannot be removed. For example, if
+-- `μ` is infinite on any nonempty set and `ν = 0`, then the hypothese are satisfied.
+lemma compare_measure_of_compact_sets {μ ν : Measure X} [ν.OuterRegular]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: I think this is a better name:

```suggestion
lemma measure_le_of_isCompact_of_integral {μ ν : Measure X} [ν.OuterRegular]
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 11]
```diff
@@ -338,4 +349,98 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+    [IsFiniteMeasureOnCompacts ν] [IsFiniteMeasureOnCompacts μ]
+    (hμν : ∀ (f : C_c(X, ℝ)), ∫ (x : X), f x ∂μ ≤ ∫ (x : X), f x ∂ν)
+    ⦃K : Set X⦄ (hK : IsCompact K) : μ K ≤ ν K := by
+  refine ENNReal.le_of_forall_pos_le_add fun ε hε hν ↦ ?_
+  have hνK : ν K ≠ ⊤ := hν.ne
+  have hμK : μ K ≠ ⊤ := hK.measure_lt_top.ne
+  obtain ⟨V, pV1, pV2, pV3⟩ : ∃ V ⊇ K, IsOpen V ∧ ν V ≤ ν K + ε := by
+    exact Set.exists_isOpen_le_add K ν (ne_of_gt (ENNReal.coe_lt_coe.mpr hε))
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]:
```suggestion
  obtain ⟨V, pV1, pV2, pV3⟩ : ∃ V ⊇ K, IsOpen V ∧ ν V ≤ ν K + ε :=
    exists_isOpen_le_add K ν (ne_of_gt (ENNReal.coe_lt_coe.mpr hε))
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 12]
```diff
@@ -338,4 +349,98 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+  suffices  (μ K).toReal ≤ (ν K).toReal + ε by
+    rw [← ENNReal.toReal_le_toReal, ENNReal.toReal_add, ENNReal.coe_toReal]
+    all_goals finiteness
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: It's better to use [MeasureTheory.Measure.real](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/MeasureSpaceDef.html#MeasureTheory.Measure.real), which provides more API. I think it would be nice to extend said API by adding something saying `μ.real s ≤ ε ↔ μ s ≤ ↑ε`, which could then be used jointly with [MeasureTheory.measureReal_diff_le_iff_le_add](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/Real.html#MeasureTheory.measureReal_diff_le_iff_le_add) to avoid `ENNReal` API.
```suggestion
  suffices μ.real K ≤ ν.real K + ε by
    rwa [← ENNReal.toReal_le_toReal, ENNReal.toReal_add, ENNReal.coe_toReal]
    all_goals finiteness
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 13]
```diff
@@ -338,4 +349,98 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+    by_cases hx : x ∈ tsupport f
+    · simp [(pf2 hx), (pf3 x).2]
+    · simp [image_eq_zero_of_notMem_tsupport hx, Set.indicator_nonneg]
+  have hfK (x : X) : K.indicator 1 x ≤ f x := by
+    by_cases hx : x ∈ K
+    · simp [hx, pf1 hx]
+    · simp [hx, (pf3 x).1]
+  calc
+    (μ K).toReal = ∫ (x : X), K.indicator 1 x ∂μ := by
+      rw [integral_indicator_one hK.measurableSet, measureReal_def]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]:
```suggestion
    μ.real K = ∫ (x : X), K.indicator 1 x ∂μ := integral_indicator_one hK.measurableSet |>.symm
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 14]
```diff
@@ -338,4 +349,98 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+    _ ≤ ∫ (x : X), (f x : ℝ) ∂μ := by
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: You don't need all the type ascriptions, all the `(x : X)` throughout the proof in particular are not needed.
```suggestion
    _ ≤ ∫ (x : X), f x ∂μ := by
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 15]
```diff
@@ -338,4 +349,98 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+      refine integral_mono ?_ f.integrable hfK
+      exact (continuousOn_const.integrableOn_compact hK).integrable_indicator hK.measurableSet
+    _ ≤ ∫ (x : X), (f x : ℝ) ∂ν := hμν f
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]:
```suggestion
    _ ≤ ∫ (x : X), f x ∂ν := hμν f
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 16]
```diff
@@ -338,4 +349,98 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+      exact IntegrableOn.integrable_indicator integrableOn_const pV2.measurableSet
+    _ ≤ (ν K).toReal + ↑ε := by
+      rwa [integral_indicator_one pV2.measurableSet, measureReal_def,
+        ← ENNReal.coe_toReal, ← ENNReal.toReal_add, ENNReal.toReal_le_toReal]
+      all_goals finiteness
+
+/-- If two regular measures give the same integral for every function in `C_c(X, ℝ)`,
+then they are equal. -/
+theorem _root_.MeasureTheory.Measure.ext_of_integral_eq_on_compactlySupported {μ ν : Measure X}
+    [μ.Regular] [ν.Regular] (hμν : ∀ (f : C_c(X, ℝ)), ∫ (x : X), f x ∂μ = ∫ (x : X), f x ∂ν) :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: I feel like these type ascriptions in integrals are not useful and damages readability, what do you think?
```suggestion
    [μ.Regular] [ν.Regular] (hμν : ∀ f : C_c(X, ℝ), ∫ x, f x ∂μ = ∫ x, f x ∂ν) :
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 17]
```diff
@@ -338,4 +349,98 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+  apply le_antisymm
+  · exact compare_measure_of_compact_sets (fun f ↦ (hμν f).le) hK
+  · exact compare_measure_of_compact_sets (fun f ↦ (hμν f).ge) hK
+
+/-- Integral as a positive linear functional on `C_c(X, ℝ)`. -/
+@[simps!]
+noncomputable def integralPositiveLinearMap (μ : Measure X) [OpensMeasurableSpace X]
+    [IsFiniteMeasureOnCompacts μ] : C_c(X, ℝ) →ₚ[ℝ] ℝ :=
+  PositiveLinearMap.mk₀
+    { toFun f := ∫ (x : X), f x ∂μ,
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]:
```suggestion
    { toFun f := ∫ x, f x ∂μ,
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 18]
```diff
@@ -338,4 +349,98 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+      map_add' f g := integral_add' f.integrable g.integrable
+      map_smul' c f := integral_smul c f }
+    fun _ ↦ integral_nonneg
+
+/-- Two regular measures are equal iff they induce the same positive linear functional
+on `C_c(X, ℝ)`. -/
+theorem integralPositiveLinearMap_inj {μ ν : Measure X} [μ.Regular] [ν.Regular] :
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: Can you add an `Injective` version please?

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean (hunk 3 above)
Comment (EtienneC30) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: I think you should create a folder `CompactlySupported`, change the current file `CompactlySupported` to `Basic` and create a new file `Integral` where you can put this lemma along with `integralPositiveLinearMap`.

Comment (CoolRmal) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: I received the following warning after I did this: Modules starting with Mathlib.Topology are not allowed to import modules starting with Mathlib.Probability. Maybe I shouldn't put `integralPositiveLinearMap` in this `Integral` file?

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean (hunk 18 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: May you be more specific? `integralPositiveLinearMap` is a dependent function as it requires the instance `IsFiniteMeasureOnCompacts μ`, and I am not sure how to write an `Injective` statement for a dependent function.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean (hunk 3 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: In order to fix this import issue, I moved the lemma `essSup_uniformOn_eq_ciSup` in [Mathlib/MeasureTheory/Function/EssSup.lean](https://github.com/leanprover-community/mathlib4/pull/28061/files#diff-99d845217605225197c102b1fcfe71f14029dc316a1180e848bbb325461d92c9) to [Mathlib/Probability/UniformOn.lean](https://github.com/leanprover-community/mathlib4/pull/28061/files#diff-107577803ba5129a2859d3537f94eae7e251aad9be900a40f73eb95f126f9d86).

**Comment by FormulaRabbit81** [comment]
-awaiting-author

**Comment by j-loreaux** [comment]
@CoolRmal the file rename should happen in a separate PR (on which this one should depend), please go ahead and open such a PR, and reference this one as motivation.

**Comment by CoolRmal** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 19]
```diff
@@ -338,4 +342,89 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+
+section integralPositiveLinearMap
+
+variable {μ ν : Measure X}
+
+/-! We show that `RealRMK.rieszMeasure` is a bijection between positive linear functionals on
+`C_c(X, ℝ)` and regular measures with inverse `RealRMK.integralPositiveLinearMap`. -/
+
+-- Note: the assumption `IsFiniteMeasureOnCompacts μ` cannot be removed. For example, if
+-- `μ` is infinite on any nonempty set and `ν = 0`, then the hypothese are satisfied.
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: This could be part of the docstring of the lemma, no?

**Review by YaelDillies — COMMENTED** [review]
Can you undo #30187 from the diff here, as we discussed over there?

File: Mathlib/MeasureTheory/Integral/CompactlySupported.lean [hunk 20]
```diff
@@ -0,0 +1,50 @@
+/-
+Copyright (c) 2025 Yongxi Lin. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yongxi Lin, Thomas Zhu
+-/
+
+import Mathlib.GroupTheory.MonoidLocalization.Basic
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/CompactlySupported.lean]: Surely this is unnecessary?
```suggestion
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Basic.lean [hunk 21]
```diff
@@ -27,7 +27,6 @@ literature.
 
 -/
 
-
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Basic.lean:30]: Unnecessary diff

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 22]
```diff
@@ -6,6 +6,7 @@ Authors: Yoh Tanimoto, Oliver Butterley
 import Mathlib.MeasureTheory.Integral.Bochner.Set
 import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.Basic
 import Mathlib.Order.Interval.Set.Union
+import Mathlib.MeasureTheory.Integral.CompactlySupported
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]:
```suggestion
import Mathlib.MeasureTheory.Integral.CompactlySupported
import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.Basic
import Mathlib.Order.Interval.Set.Union
```

File: Mathlib/MeasureTheory/Integral/CompactlySupported.lean [hunk 23]
```diff
@@ -0,0 +1,50 @@
...
+import Mathlib.MeasureTheory.Function.LocallyIntegrable
+import Mathlib.MeasureTheory.Integral.Bochner.Basic
+import Mathlib.Topology.ContinuousMap.CompactlySupported
+
+/-! This file contains definitions and lemmas related to integrals of compactly supported continuous
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/CompactlySupported.lean]:
```suggestion
/-!
# Integrating compactly supported continuous functions

This file contains definitions and lemmas related to integrals of compactly supported continuous
```

**Comment by CoolRmal** [comment]
-awaiting-author

File: Mathlib/MeasureTheory/Integral/CompactlySupported.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/CompactlySupported.lean]: You forgot the line break after the title

**Comment by YaelDillies** [comment]
There are a lot of unresolved comments. Can you please resolve the comments that you have addressed satisfactorily? Please don't resolve comments if your fix for them might generate further discussion.

File: Mathlib/MeasureTheory/Integral/CompactlySupported.lean [hunk 24]
```diff
@@ -0,0 +1,51 @@
...
+namespace CompactlySupportedContinuousMap
+
+lemma integrable {X E : Type*} [MeasurableSpace X]
+    [TopologicalSpace X] [NormedAddCommGroup E] (f : C_c(X, E))
+    {μ : Measure X} [OpensMeasurableSpace X] [IsFiniteMeasureOnCompacts μ] :
+    Integrable f μ :=
+  f.continuous.integrable_of_hasCompactSupport f.hasCompactSupport
+
+variable [TopologicalSpace X] [T2Space X] [LocallyCompactSpace X] [MeasurableSpace X] [BorelSpace X]
+variable (Λ : C_c(X, ℝ) →ₚ[ℝ] ℝ)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/CompactlySupported.lean]:
```suggestion
variable [TopologicalSpace X] [MeasurableSpace X]

lemma integrable {E : Type*} [NormedAddCommGroup E] (f : C_c(X, E))
    {μ : Measure X} [OpensMeasurableSpace X] [IsFiniteMeasureOnCompacts μ] :
    Integrable f μ :=
  f.continuous.integrable_of_hasCompactSupport f.hasCompactSupport

variable [T2Space X] [LocallyCompactSpace X] [BorelSpace X] (Λ : C_c(X, ℝ) →ₚ[ℝ] ℝ)
```
is more readable, no?

File: Mathlib/MeasureTheory/Integral/CompactlySupported.lean [hunk 25]
```diff
@@ -0,0 +1,51 @@
...
+
+/-- Integral as a positive linear functional on `C_c(X, ℝ)`. -/
+@[simps!]
+noncomputable def integralPositiveLinearMap (μ : Measure X) [OpensMeasurableSpace X]
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/CompactlySupported.lean]: Why are you assuming `OpensMeasurableSpace` when you already have `BorelSpace` above? Can you clarify which assumption is needed?

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 26]
```diff
@@ -338,4 +342,89 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+
+section integralPositiveLinearMap
+
+variable {μ ν : Measure X}
+
+/-! We show that `RealRMK.rieszMeasure` is a bijection between positive linear functionals on
+`C_c(X, ℝ)` and regular measures with inverse `RealRMK.integralPositiveLinearMap`. -/
+
+/-- Note: the assumption `IsFiniteMeasureOnCompacts μ` cannot be removed. For example, if
+`μ` is infinite on any nonempty set and `ν = 0`, then the hypothese are satisfied. -/
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]:
```suggestion
`μ` is infinite on any nonempty set and `ν = 0`, then the hypotheses are satisfied. -/
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 27]
```diff
@@ -338,4 +342,89 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+    · simp [hx, (pf3 x).1]
+  calc
+    μ.real K = ∫ x, K.indicator 1 x ∂μ := integral_indicator_one hK.measurableSet |>.symm
+    _ ≤ ∫ x, f x ∂μ := by
+      refine integral_mono ?_ f.integrable hfK
+      exact (continuousOn_const.integrableOn_compact hK).integrable_indicator hK.measurableSet
+    _ ≤ ∫ x, f x ∂ν := hμν f
+    _ ≤ ∫ x, V.indicator 1 x ∂ν := by
+      refine integral_mono f.integrable ?_ hfV
+      exact IntegrableOn.integrable_indicator integrableOn_const pV2.measurableSet
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean:391]:
```suggestion
      exact integrableOn_const.integrable_indicator pV2.measurableSet
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean [hunk 28]
```diff
@@ -338,4 +342,89 @@ theorem integral_rieszMeasure (f : C_c(X, ℝ)) : ∫ x, f x ∂(rieszMeasure Λ
...
+  apply le_antisymm
+  · exact measure_le_of_isCompact_of_integral (fun f ↦ (hμν f).le) hK
+  · exact measure_le_of_isCompact_of_integral (fun f ↦ (hμν f).ge) hK
+
+/-- Two regular measures are equal iff they induce the same positive linear functional
+on `C_c(X, ℝ)`. -/
+theorem integralPositiveLinearMap_inj [μ.Regular] [ν.Regular] :
+    integralPositiveLinearMap μ = integralPositiveLinearMap ν ↔ μ = ν :=
+  ⟨fun hμν ↦ Measure.ext_of_integral_eq_on_compactlySupported fun f ↦ congr($hμν f),
+    fun _ ↦ by congr⟩
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean]: nit:
```suggestion
    integralPositiveLinearMap μ = integralPositiveLinearMap ν ↔ μ = ν where
  mp hμν := Measure.ext_of_integral_eq_on_compactlySupported fun f ↦ congr($hμν f)
  mpr _ := by congr
```

File: Mathlib/MeasureTheory/Measure/Regular.lean [hunk 29]
```diff
@@ -216,6 +216,13 @@ theorem measure_eq_iSup (H : InnerRegularWRT μ p q) (hU : q U) :
     le_antisymm (le_of_forall_lt fun r hr => ?_) (iSup₂_le fun K hK => iSup_le fun _ => μ.mono hK)
   simpa only [lt_iSup_iff, exists_prop] using H hU r hr
 
+theorem eq_on_outer_of_eq_on_inner {ν : Measure α} (hμ : μ.InnerRegularWRT p q)
+    (hν : ν.InnerRegularWRT p q) (hμν : ∀ U, p U → μ U = ν U)
+    {U : Set α} (hU : q U) : μ U = ν U := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/Regular.lean]: This is a weird lemma name wrt to the symbol-reading convention. Do you think you could improve it?

File: Mathlib/MeasureTheory/Measure/Regular.lean [hunk 30]
```diff
@@ -461,6 +468,14 @@ lemma measure_closure_eq_of_isCompact [R1Space α] [OuterRegular μ]
   intro u ku u_open
   exact measure_mono (hk.closure_subset_of_isOpen u_open ku)
 
+/-- Outer regular measures are determined by values on open sets. -/
+theorem eq_of_eq_on_isOpen {ν : Measure α} [OuterRegular μ] [OuterRegular ν]
+    (hμν : ∀ U, IsOpen U → μ U = ν U) : μ = ν := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/Regular.lean]: And this one too. What about
```suggestion
theorem ext_isOpen {ν : Measure α} [OuterRegular μ] [OuterRegular ν]
    (hμν : ∀ U, IsOpen U → μ U = ν U) : μ = ν := by
```

File: Mathlib/Topology/UrysohnsLemma.lean [hunk 31]
```diff
@@ -520,6 +520,18 @@ lemma exists_tsupport_one_of_isOpen_isClosed [T2Space X] {s t : Set X}
     apply Urysohns.CU.lim_of_notMem_U
     exact notMem_compl_iff.mpr hx
 
+/-- A variation of Urysohn's lemma. In a Hausdorff locally compact space, for a compact set `K`
```
Comment (YaelDillies) [inline Mathlib/Topology/UrysohnsLemma.lean]:
```suggestion
/-- A variation of **Urysohn's lemma**. In a Hausdorff locally compact space, for a compact set `K`
```

File: Mathlib/Topology/UrysohnsLemma.lean [hunk 32]
```diff
@@ -520,6 +520,18 @@ lemma exists_tsupport_one_of_isOpen_isClosed [T2Space X] {s t : Set X}
...
+contained in an open set `V`, there exists a compactly supported continuous function `f` such that
+`0 ≤ f ≤ 1`, `f = 1` on K and the support of `f` is contained in `V`. -/
+lemma exists_continuous_one_of_compact_subset_open [T2Space X] [LocallyCompactSpace X]
+    {K V : Set X} (hK : IsCompact K) (hV : IsOpen V) (hKV : K ⊆ V) :
+    ∃ f : C(X, ℝ), Set.EqOn (⇑f) 1 K ∧ IsCompact (tsupport ⇑f)
+    ∧ tsupport ⇑f ⊆ V ∧ ∀ (x : X), f x ∈ Set.Icc 0 1 := by
```
Comment (YaelDillies) [inline Mathlib/Topology/UrysohnsLemma.lean]: nit:
```suggestion
    ∃ f : C(X, ℝ), Set.EqOn f 1 K ∧ IsCompact (tsupport f) ∧
      tsupport f ⊆ V ∧ ∀ x, f x ∈ Set.Icc 0 1 := by
```

File: Mathlib/MeasureTheory/Integral/CompactlySupported.lean (hunk 25 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Integral/CompactlySupported.lean]: Thanks for pointing this out. I want `OpensMeasurableSpace` as `BorelSpace` is just a special case of `OpensMeasurableSpace`.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean (hunk 27 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean:391]: This change actually creates warning. I think this is probably because `integrableOn_const` has default arguments.

File: Mathlib/MeasureTheory/Measure/Regular.lean (hunk 29 above)
Comment (CoolRmal) [reply Mathlib/MeasureTheory/Measure/Regular.lean]: I think I was following the symbol-reading convention at the very beginning. The name `eq_on_outer_of_eq_on_inner` is suggested by another reviewer.

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean (hunk 27 above)
Comment (YaelDillies) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean:391]: Aaah right, that should be fixed, but not by us!

**Comment by CoolRmal** [comment]
-awaiting-author

File: Mathlib/Topology/UrysohnsLemma.lean [hunk 33]
```diff
@@ -520,6 +520,18 @@ lemma exists_tsupport_one_of_isOpen_isClosed [T2Space X] {s t : Set X}
     apply Urysohns.CU.lim_of_notMem_U
     exact notMem_compl_iff.mpr hx
 
+/-- A variation of **Urysohn's lemma**. In a Hausdorff locally compact space, for a compact set `K`
+contained in an open set `V`, there exists a compactly supported continuous function `f` such that
+`0 ≤ f ≤ 1`, `f = 1` on K and the support of `f` is contained in `V`. -/
+lemma exists_continuous_one_of_compact_subset_open [T2Space X] [LocallyCompactSpace X]
```
Comment (YaelDillies) [inline Mathlib/Topology/UrysohnsLemma.lean]:
```suggestion
lemma exists_continuousMap_one_of_isCompact_subset_isOpen [T2Space X] [LocallyCompactSpace X]
```
to better follow symbol-reading

**Review by YaelDillies — APPROVED** [review]
I am not a huge fan of the lemma names, but otherwise this looks good, thanks!

maintainer delegate

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean (hunk 27 above)
Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean:391]: I think we should use default parameters for e.g. fun_prop or `finiteness` goals more; but I agree that the error messages around this are not great. (IIRC, there's a Lean bug about this, but I couldn't find it when searching just now.)
Does this work?
```suggestion
      exact (integrableOn_const _).integrable_indicator pV2.measurableSet

Comment (CoolRmal) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/Real.lean:391]: `exact (integrableOn_const _).integrable_indicator pV2.measurableSet` does not work because Lean doesn't know how to synthesize placeholder.

`exact (integrableOn_const (by finiteness)).integrable_indicator pV2.measurableSet` works.

File: Mathlib/MeasureTheory/Measure/Regular.lean (hunk 29 above)
Comment (j-loreaux) [reply Mathlib/MeasureTheory/Measure/Regular.lean]: I agree that the original name (referencing the variable names `p` and `q`) was not good, but I also agree with Yaël that the current name isn't ideal either. I would suggest `Measure.InnerRegularWRT.ext`, as it's a kind of extensionality lemma for regular measures relative to some predicates.

If that feels too misleading, then perhaps `eq_of_innerRegularWRT_of_forall_eq` is a better symbol reading variation.

I'll let the author of the PR decide.

**Review by j-loreaux — COMMENTED** [review]
Thanks for your work on this! Please address the naming issue I commented on, then wait for CI to finish and feel free to merge.

bors d+
